* RD3L050SN NMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2018/02/01
******************D G S
.SUBCKT RD3L050SN 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 63.47m
D2       22 11 DDG
R2        2 22 13.24
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=48.895E-6
+ RS=10.000E-3
+ RD=0
+ VTO={2.3276*(1+tol2)}
+ RDS=60.000E6
+ TOX=2.0000E-6
+ CGSO=221p
+ CGDO=4p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=1.3
+ ETA=0.0001
+ KAPPA=0
+ NFS=13G
.MODEL DDS D
+ IS=1.6402E-12
+ N=1.0625
+ RS=8.1506E-3
+ IKF=.66845
+ CJO=190.56E-12
+ M=.47358
+ VJ=.78152
+ BV=60
+ TT=34n
.MODEL DDG D
+ CJO=105.56E-12
+ M=.51644
+ VJ=0.9836
+ N={10000*(1+tol1)}
+ FC=0.13
.MODEL RTH RES
+ TC1=0.0065
+ TC2=0.000018
.ENDS RD3L050SN
